US05602132
2-bromo-1-(2,4-dibromophenyl)-1-propanone (Compound 14)
15 g of aluminium chloride are added with caution, at 0° C., to 25 g of 1,3-dibromobenzene in 250 ml of carbon disulphide, and 22.86 g of 2-bromopropionyl bromide are then run in slowly. The mixture is maintained at reflux for 8 hours, then the carbon disulphide is evaporated off under vacuum and the reaction medium is poured onto crushed ice. The product is extracted twice with heptane, dried, evaporated to dryness and then purified on a column of silica, using a mixture of cyclohexane and ethyl acetate (10:1 v/v) as eluent, to give the expected product.

reactant | aluminium chloride | 15 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,3-dibromobenzene | 25 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | 2-bromopropionyl bromide | 22.86 g | BrC(C(=O)Br)C | C3H4Br2O
solvent | carbon disulphide | 250 ml | C(=S)=S | CS2
product | 2-bromo-1-(2,4-dibromophenyl)-1-propanone | Yield: 76% | BrC(C(=O)C1=C(C=C(C=C1)Br)Br)C | C9H7Br3O
